US06150373
A mixture of 240 mg (1 mmol) of 5-tert.butylaminomethyl-4-methylamino-2-methylthiopyrimidine and 0.28 ml of triethylamine in 5 ml of tetrahydrofuran was added dropwise to an ice-cooled solution of 1 ml (1.92 mmol) of phosgene (20% solution in toluene) in 5 ml of tetrahydrofuran. After 1 hour 30 ml of saturated aqueous ammonium chloride and 20 ml of tetrahydrofuran were added to the resulting mixture. The phases were separated. The organic phase was dried over magnesium sulfate, filtered and then evaporated to give 220 mg (83%) of 3-tert.butyl-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid.

reactant | 5-tert.butylaminomethyl-4-methylamino-2-methylthiopyrimidine | 1 mmol, 240 mg | C(C)(C)(C)NCC=1C(=NC(=NC1)SC)NC | C11H20N4S
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | 1.92 mmol, 1 ml | C(=O)(Cl)Cl | CCl2O
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-tert.butyl-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 220 mg, 83% | C(C)(C)(C)N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C12H18N4OS
